US07612091B2
(S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid
A solution of (S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid, tert butyl ester (322 mg) in dichloromethane (14 ml) was cooled to 0° C. Trifluoroacetic acid (3.5 ml) was added and the resulting mixture allowed to warm to room temperature and stir for 2 hours. The mixture was then concentrated under reduced pressure and the residue redissolved in dichloromethane. This process was repeated several times in order to remove excess trifluoroacetic acid. The resulting solid was slurried in diethyl ether, filtered and washed with more diethyl ether. The solid was then dried to constant weight under vacuum. This gave the sub-title product as a white solid (236 mg, 89%); m.p. 159.6-160.1° C.; [α]24D−47.0° (c=1.01, CHCl3); ir (solid) 1731.4, 1639.3, 1577.8, 1209.1, 1168.1 cm−1; 1H NMR (400 MHz, d6-DMSO) δ 0.82 (3H, t), 2.00-2.25 (2H, m), 5.20 (1H, m), 6.70 (1H, d), 7.49 (1H, d), 7.70-7.81 (2H, m), 8.18 (1H, s; 13C NMR (100 MHz, d6-DMSO) δ 10.8, 22.7, 60.8, 104.9, 126.5, 126.6, 128.8, 131.6, 132.5, 133.1, 135.8, 160.5, 171.7; MS ES (+) 266.27 (M+H).

reactant | (S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid, tert butyl ester | 322 mg | ClC1=CC=C2C=CN(C(C2=C1)=O)[C@H](C(=O)OC(C)(C)C)CC | C17H20ClNO3
reactant | Trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | (S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid | 236 mg, 89% | ClC1=CC=C2C=CN(C(C2=C1)=O)[C@H](C(=O)O)CC | C13H12ClNO3
